US09260427B2
Prepared using General Procedure 7. Into a solution of 4-(tert-butyl)benzoic acid (8.3 g, 46.4 mmol) in DMF (100 mL) were added HATU (19.2 g, 50.6 mmol), TEA (17.6 mL, 126.4 mmol) and (S)-tert-butyl 2-amino-3-(4-hydroxyphenyl)propanoate (10.0 g, 42.1 mmol). After 5 h, the reaction mixture was diluted with EA, washed with saturated aqueous NaHCO3 and brine, then dried (Na2SO4), concentrated, and purified by chromatography (EA/hexanes) to provide 12.9 g (69%) of tert-butyl (4-(tert-butyl)benzoyl)-L-tyrosinate. LCMS-ESI (m/z) calculated for C24H31NO4: 397.5; no m/z observed, tR=3.59 min (Method 1). 1H NMR (400 MHz, CDCl3) δ7.71-7.65 (m, 2H), 7.47-7.39 (m, 2H), 7.04 (t, J=5.7 Hz, 2H), 6.78-6.70 (m, 2H), 6.59 (d, J=7.5 Hz, 1H), 4.91 (dt, J=7.5, 5.6 Hz, 1H), 3.15 (qd, J=14.0, 5.6 Hz, 2H), 1.45 (s, 9H), 1.33 (s, 9H).

reactant | 4-(tert-butyl)benzoic acid | 46.4 mmol, 8.3 g | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | HATU | 50.6 mmol, 19.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-tert-butyl 2-amino-3-(4-hydroxyphenyl)propanoate | 42.1 mmol, 10.0 g | N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O | C13H19NO3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | tert-butyl (4-(tert-butyl)benzoyl)-L-tyrosinate | 12.9 g, 69% | C(C)(C)(C)C1=CC=C(C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)OC(C)(C)C)C=C1 | C24H31NO4
